US06495581B1
Potassium hydroxide (1.83 g) was added to a solution of ethyl Z-2,2-dimethyl-3-[4-(5-methyl-2-phenyl-3-oxazolylmethoxy)benzyloxyimino]-3-phenylpropionate (265 mg) in tetrahydrofuran (3 ml)-water (3 ml)-methanol (6 ml), the mixture was heated to reflux for 3 days and cooled to room temperature. Dilute hydrochloric acid was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The remaining crystals were recrystallized from ethyl acetate-hexane to obtain Z-2,2-dimethyl-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-3-phenylpropionic acid (130 mg, yield 52%) as pale-yellow crystals. m.p. 142-143° C. (decomposition).

reactant | Potassium hydroxide | 1.83 g | [OH-].[K+]
reactant | ethyl Z-2,2-dimethyl-3-[4-(5-methyl-2-phenyl-3-oxazolylmethoxy)benzyloxyimino]-3-phenylpropionate | 265 mg | CC(C(=O)OCC)(\C(\C1=CC=CC=C1)=N/OCC1=CC=C(C=C1)OCN1C(OC(=C1)C)C1=CC=CC=C1)C | C31H34N2O5
reactant | water | 3 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 6 ml | CO | CH4O
product | Z-2,2-dimethyl-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-3-phenylpropionic acid | 130 mg, yield 52% | CC(C(=O)O)(\C(\C1=CC=CC=C1)=N/OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)C | C29H28N2O5
